US07632851B2
5-[4-(2-Fluoro-ethoxy)-phenyl]-benzo[1,2,5]oxadiazole
Starting from 5-benzo[1,2,5]oxadiazoleboronic acid and 1-bromo-4-(2-fluoro-ethoxy)-benzene. Yellow-beige powder. MS(ES+): 259 (M+1).

reactant | 5-benzo[1,2,5]oxadiazoleboronic acid | N1=C2C(=NO1)C=C(C=C2)B(O)O | C6H5BN2O3
reactant | 1-bromo-4-(2-fluoro-ethoxy)-benzene | BrC1=CC=C(C=C1)OCCF | C8H8BrFO
product | 5-[4-(2-Fluoro-ethoxy)-phenyl]-benzo[1,2,5]oxadiazole | FCCOC1=CC=C(C=C1)C=1C=CC=2C(=NON2)C1 | C14H11FN2O2
